US08557802B2
Tert-butyl 4-cyano-2-fluorobenzoate
Di-tert-butyl dicarbonate (145.4 g, 666.2 mmol) was added to a tert-butyl alcohol (1000 mL)-tetrahydrofuran (500 mL) solution of 4-cyano-2-fluorobenzoic acid (100.0 g, 605.6 mmol), and the mixture was stirred for 3 hours at 60° C. The reaction mixture was cooled to room temperature, and the insoluble matter was removed by filtration through Celite. The solvent was distilled off under reduced pressure. Thus, a crude product of the title compound was obtained.

reactant | Di-tert-butyl dicarbonate | 666.2 mmol, 145.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-butyl alcohol | 1000 mL | C(C)(C)(C)O | C4H10O
reactant | 4-cyano-2-fluorobenzoic acid | 605.6 mmol, 100.0 g | C(#N)C1=CC(=C(C(=O)O)C=C1)F | C8H4FNO2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | Tert-butyl 4-cyano-2-fluorobenzoate | C(#N)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C12H12FNO2
